US09302991B2
<Step-1>:1-(6-(2,2-difluoroethoxy)pyridin-3-yl)ethanone
The title compound is prepared in 71% yield (1.34 g, a white solid) from 1-(6-chloropyridin-3-yl)ethanone (1.5 g, 9.64 mmol) and 2,2-difluoroethanol instead of 2,2,2-trifluoroethanol by the similar manner in Step-1 of Amine-2.

reactant | 1-(6-chloropyridin-3-yl)ethanone | 9.64 mmol, 1.5 g | ClC1=CC=C(C=N1)C(C)=O | C7H6ClNO
reactant | 2,2-difluoroethanol | FC(CO)F | C2H4F2O
product | 1-(6-(2,2-difluoroethoxy)pyridin-3-yl)ethanone | 71% yield | FC(COC1=CC=C(C=N1)C(C)=O)F | C9H9F2NO2
